US05998433
c) Synthesis of (E)-N,N-dimethyl-[6-(4-stilbenecarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
(E)-N,N-Dimethyl-[6-(4-stilbenecarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.153 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated; the resulting solid was washed with diethyl ether to yield the desired product.

reactant | (E)-N,N-Dimethyl-[6-(4-stilbenecarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.153 g | CN(C)CC1=CC2=C(CN(CC2)C(=O)C2=CC=C(C=C2)\C=C\C2=CC=CC=C2)O1 | C25H26N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-N,N-dimethyl-[6-(4-stilbenecarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(=O)C2=CC=C(C=C2)\C=C\C2=CC=CC=C2)O1 | InChI=1S/C25H26N2O2.ClH/c1-26(2)17-23-16-22-14-15-27(18-24(22)29-23)25(28)21-12-10-20(11-13-21)9-8-19-6-4-3-5-7-19;/h3-13,16H,14-15,17-18H2,1-2H3;1H/b9-8+;
